* Source File: lm2679fixblk.asc,lm2679adjblk.asc
* Developer: ETech (eetech00@yahoo.com) 
* Created: Jul 03 2016
* Revision: NA
*
* This LM2679 spice behavioural model was tested
* with LTSpice. Temperature is not modelled.
* 
* Texas Instruments
* LM2679 SIMPLE SWITCHER Power Converter 260KHz 5A Step-Down Voltage Regulator
*
* LM2679-3.3
.subckt LM267903 IADJ FB IN OUT VGND CB SS
.param R2=4.32k
X1Reg IADJ FB IN OUT VGND CB SS lm2679fixblk params: R2={R2}
.ends LM267903
*
* LM2679-5.0
.subckt LM267905 IADJ FB IN OUT VGND CB SS
.param R2=7.83k
X1Reg IADJ FB IN OUT VGND CB SS lm2679fixblk params: R2={R2}
.ends LM267905
*
* LM2679-12.0
.subckt LM267912 IADJ FB IN OUT VGND CB SS
.param R2=22.3k
X1Reg IADJ FB IN OUT VGND CB SS lm2679fixblk params: R2={R2}
.ends LM267912

* LM2679-ADJ
.subckt LM2679ADJ IADJ FB IN OUT VGND CB SS
X1Reg IADJ FB IN OUT VGND CB SS lm2679adjblk
.ends LM2679ADJ

* block symbol definitions
.subckt lm2679fixblk IADJ FB IN OUT VGND CB SS
A2 ramp err 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=1m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX5 pwm dcmax ilim1 0 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX8 fbin outn errout errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH=3.2 LOW=0.6 Td={TD}
XX1 IN _on/off vs NC_04 reg NC_05 NC_06 NC_07 outn onoffblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dcmax ramp reg freq dclim oscdclim params: HIGH=3.2 LOW=0.6
B1 freq outn V=((V(ilim2)/0.05)/100)*260k
B2 dclim outn V={DUTYMAX}
XX7 ilim1 vs SS outn softstblk
B3 err outn V=Limit({LOW},{HIGH},IF(V(SS) <V(errout), V(SS), V(errout)))
XX3 q sw OUT NC_08 pwrswblk
XX9 CB vs reg cbootblk
XX2 reg IADJ vs sw cl outn ilim1 ilim2 iladjblk
R1 fbin VGND 2.5k
R2 FB fbin {R2}
.param TD=4n
.param TRISE=1n
 
.param SDLOW=0.60
.param SDHIGH=1.30
 
.param HIGH=5
.param LOW=300m
 
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
 
.param ILIM1=7.0
.param ILIM2=8.26
.param DUTYMAX=0.91
.param R2=7.83k
.ends lm2679fixblk

.subckt lm2679adjblk IADJ FB IN OUT VGND CB SS
A2 ramp err 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=1m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX5 pwm dcmax ilim1 0 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX8 FB outn errout errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH=3.2 LOW=0.6 Td={TD}
XX1 IN _on/off vs NC_04 reg NC_05 NC_06 NC_07 outn onoffblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dcmax ramp reg freq dclim oscdclim params: HIGH=3.2 LOW=0.6
B1 freq outn V=((V(ilim2)/0.05)/100)*260k
B2 dclim outn V={DUTYMAX}
XX7 ilim1 vs SS outn softstblk
B3 err outn V=Limit({LOW},{HIGH},IF(V(SS) <V(errout), V(SS), V(errout)))
XX3 q sw OUT NC_08 pwrswblk
XX9 CB vs reg cbootblk
XX2 reg IADJ vs sw cl outn ilim1 ilim2 iladjblk
.param TD=4n
.param TRISE=1n
 
.param SDLOW=0.60
.param SDHIGH=1.30
 
.param HIGH=5
.param LOW=300m
 
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
 
.param ILIM1=7.0
.param ILIM2=8.26
.param DUTYMAX=0.91
.ends lm2679adjblk

.subckt latchblk r1 r2 r3 r4 r5 s1 s2 s3 s4 s5 _q q
A2 r1 r2 r3 r4 r5 0 rst 0 OR Td={TD+1n} Trise={TRISE} VHigh={HIGH} VLow={LOW}
A3 s1 s2 s3 s4 s5 0 set 0 OR Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW}
B1 q 0 V=V(1)*IF(V(q_out)>{HIGH}*0.5,{HIGH},{LOW})
C1 10 0 10p
R1 q 10 100
B2 _q 0 V=V(1)*IF(V(_q_out)>{HIGH}*0.5,{HIGH},{LOW})
C2 20 0 10p
R2 _q 20 100
R3 _q_out 0 1e8
R4 q_out 0 1e8
R5 r2 0 1e8
R6 r3 0 1e8
R7 r4 0 1e8
R8 r5 0 1e8
R9 r1 0 1e8
R10 s2 0 1e8
R11 s3 0 1e8
R12 s4 0 1e8
R13 s5 0 1e8
R14 s1 0 1e8
V2 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE})
A1 set rst 0 0 0 _q_out q_out 0 SRFLOP Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW} IC=0
.param TD=2n
.param TRISE=1n
  
.param HIGH=2.5
.param LOW=1u
 
.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=0
.param SR=0.01
.ends latchblk

.subckt errampblk in+ in- errout
C1 errout 10 476p
R1 10 fb_abs 177k
C2 errout fb_abs 6.9p
B1 fb_abs 0 V=V(1)*abs(V(fb_eout))
V1 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE})
E1 fb_eout 0 in+ in- 1
R4 fb_eout 0 1E8
C3 in- in+ 1p Rser=10m
XX1 ref fb_abs errout 0 oa params: VH={HIGH} VL={LOW} GAIN=10MEG POLE=2500 VTSU={VTSU} VTRISE={VTRISE} TRISE={TRISE}
B2 ref 0 V=V(1)*1.210V
B3 in+ in- I=V(1)*5nA
.param TD=2n
.param TRISE=1n
  
.param HIGH=2.5
.param LOW=1u
 
.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=0
.param SR=0.01
.ends errampblk

.subckt onoffblk vin on/_off vout ref7R9 ref5R0 ref2R1 ref1R4 ref1R21 vgnd
EVINX VINX1 VGND VIN VGND 1
VVINX VINX1 VINX 0
FVINX VIN VGND VVINX 1
I1 VINX ON/_OFF 20µ
DZ1 VGND ON/_OFF DZEN
A2 5R0 R5r0 0 0 0 0 ref5R0 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B2 R5r0 VGND V=V(1)*5.0V
A1 7R9 R7r9 0 0 0 0 ref7R9 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B1 R7r9 VGND V=V(1)*7.9V
R1 VINX 7R9 100e3
R2 7R9 5R0 2.9e6
R3 5R0 2R1 2.9e6
V2 1 VGND PULSE({VTINI} {VTON} {VTSU} {VTRISE})
A5 ON/_OFF R1r4 0 0 0 0 ref1R4 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B5 R1r4 VGND V=V(1)*1.4V
S1 VINX vout swp VGND SW
A6 0 ref7R9 0 ref1R4 0 0 swp 0 AND Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW}
A3 2R1 R2r1 0 0 0 0 ref2R1 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B3 R2r1 VGND V=V(1)*2.1V
R4 2R1 1R21 890e3
A4 1R21 R1r21 0 0 0 0 ref1R21 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B4 R1r21 VGND V=V(1)*1.21V
R5 1R21 VGND 1.21e6
R6 ref5R0 VGND 1e8
R7 ref2R1 VGND 1e8
R8 ref1R21 VGND 1e8
.param TD=2n
.param TRISE=1n
  
.param HIGH=2.5
.param LOW=1u
 
.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=0
.param SR=0.01
.model SW SW(Roff=1G Ron=.001 Vt={HIGH*0.5} Vh=-10m)
.MODEL DZEN D(RS=3.5305 BV=6.9294 CJO=313.27P TT=50N M=.33 VJ=.75 IS=1E-11
+ N=1.27 IBV=20mA)
.ends onoffblk

.subckt oscdclim clk dcmax saw ena fin dclim
BPwm pwm 0 V=if(V(sine)<V(refsaw),1,0)*V(1)
A1 freq amp 0 0 0 0 N001 0 MODULATOR mark=1 space=0
Voffset sine N001 0
BRamp ramp 0 V=if(time<P(V(Freq)),time/P(V(Freq))*1,0)*V(1)*V(1)
BSaw saw 0 V=idtmod(VP()/P(V(Freq)),0,VP(),VV())*V(1)
BSquare sq 0 V=if(V(sine)<V(ref),0,1)*V(1)
BTriangle tri 0 V=abs((1*{2}/pi)*arcsin(sin((1*pi/P(V(Freq)))*time)))*V(1)
R1 sine 0 1G
BAmp amp 0 V=350mV
BFreq freq 0 V=Limit(0.1,1e6,V(Fin))
BRef ref 0 V=100n
A2 sq pw 0 0 0 0 ton 0 SCHMITT trise=1n vt=0 tripdt=2n
BPWidth pw 0 V=V(refsaw)*358
BClock clk 0 V=if(V(ton)>0.5v,{HIGH},{LOW})*v(1)
V1 1 0 PULSE(0 1 0 1u)
R2 Fin 0 1G
R3 ena 0 1G
BDCMax dcmax 0 V=if(V(dcmton)>0.5v,{HIGH},{LOW})*v(1)
A3 dcmx dcmp 0 0 0 dcmton 0 0 SCHMITT trise=1n vt=0 tripdt=2n
BDCMP dcmp 0 V=V(refsaw)
BDCMX dcmx 0 V=Limit(0.01, 0.99, V(dclim))
R4 dclim 0 1G
BDCMN dcmn 0 V=Limit(0.01, 0.99, 0.01)
B1 refsaw 0 V=idtmod(V(Fin),0,1)
R5 ramp 0 1G
R6 pwm 0 1G
R7 tri 0 1G
.func P (F) {1/F}
.param HIGH=3.2
.param LOW=0.6
.func VP () {(LOW*V(DCMX)-HIGH*V(DCMN)+HIGH-LOW)/(V(DCMX)-V(DCMN))}
.func VV () {(LOW-V(DCMN)*VP())/(1-V(DCMN))}
.ends oscdclim

.subckt softstblk iin vin ss vgnd
CSS ss vgnd 26.37p
DSS ss 361 DSS
R1 vin vgnd 1E8
B2 vgnd ss I=IF (V(vin)> 3.3, IF(V(ss)< {HIGH}, 3.7E-6, {LOW}), {LOW})
B1 361 vgnd V=IF(V(iin)> 1.1, {LOW}, {HIGH})
R2 iin vgnd 1E8
.MODEL DSS D RS=10k
.param HIGH=5
.param LOW=0
.ends softstblk

.subckt pwrswblk pwm_in pwr_in output g_in
E1 drv output pwm_in 0 2.2
R2 drv g_in {Rg}
R3 g_in output {Rgs}
R1 pwm_in 0 1e8
M1 pwr_in g_in output output DMOS
.param Rg=55
.param Rgs={Rg*10}
.model DMOS VDMOS
+ (
+ Rg=28 Vto=1.8772 Rd=50m Rs=60m Rb=25m
+ Kp=12.5 Lambda=0.05 Cgdmin=10p Cgdmax=120p
+ A=0.6 Cgso=158p Is=5.9569p N=1.111
+ Cjo=95.567p M=467.79m Vj=781.56m TT=27n
+ mfg=Rohm Vds=60 Ron=120m Qg=2.7n
+ )
.ends pwrswblk

.subckt cbootblk cb in psin
JFET1 in cb cb JREG1MA
D1 psIn cb DZEN
.MODEL DZEN D(RS=8.4831 BV=9.8303 CJO=233.41P TT=50N M=.33 VJ=.75 IS=1E-11
+ N=1.27 IBV=20mA)
.MODEL JREG1MA NJF (VTO=-1.35 BETA=.67m LAMBDA=1.0m RD=49
+ RS=125 IS=1.56F PB=1 FC=.5 CGS=5P CGD=3.8P)
.ends cbootblk

.subckt iladjblk reg iadj psen nsen cl vgnd ilim1 ilim2
VICL iadj Ref 0
B1 Ref vgnd V=If(V(Reg)> {HIGH}*0.5, 1.21, 0)
R3 Ref N001 200
C3 N001 vgnd 10p
R4 CL N002 200
C4 N002 vgnd 10p
B4 CL vgnd V=IF(37125*(-1)*I(VICL)/1.21> 7.1 ,7.1 ,37125*(-1)*I(VICL)/1.21)
R5 reg vgnd 1e8
VSENSE psen nsen 0
R1 ilim1 101 200
C1 101 vgnd 1n
B2 ilim1 vgnd V = IF (I(VSENSE) > V(CL) , {HIGH} , {LOW})
R2 ilim2 33 200
C2 33 vgnd 1n
B3 ilim2 vgnd V=IF( I(VSENSE) >1.18*V(CL) ,{HIGH}-(I(VSENSE)*.12*.3) ,{HIGH})
.param ILIM1=8.26
.param ILIM2=7.1
.param S=37125
 
.param HIGH=5
.param LOW=0.3
.func getCL () {{S}/(V(Ref)/I(VICL))}
.ends iladjblk

.subckt oa 1 2 3 4
RP1 11 4 {GAIN/100u}
RIN 2 1 8MEG
D15 4 11 DCLAMP
CP1 11 4 {1/(6.28*(GAIN/100u)*POLE)}
D14 5A 13 DMOD
Q1 4 13 16 0 QPMOD
ISINK 13 4 PULSE(0 {ISINK} {VTSU} {VTRISE})
ISRC 7 3 PULSE(0 {ISOURCE} {VTSU} {VTRISE})
V4 3 16 PULSE(0 {VL} {VTSU} {VTRISE}) Rser={SR}
V1 7 4 PULSE(0 {VH} {VTSU} {VTRISE}) Rser={SR}
D12 3 7 DMOD
G1 4 11 1 2 100µ
E1 5 4 11 4 1
R9 5A 5 5
.MODEL QPMOD PNP()
.MODEL DCLAMP D (RS=10 BV={VH+0.06} IBV=10m)
.MODEL DMOD D (TT=1N CJO=10P)
.param ISINK=15m
.param ISOURCE=500u
.param VH=2.5
.param VL=100m
.param POLE=30
.param GAIN=31622
.param TD=2n
.param TRISE=1n
 
.param VTSU=20u
.param VTRISE=1u
.param SR=0.1
.ends oa